US07211573B2
A solution of 0.50 g (1.24 mmol) (−)-(6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one and 0.44 g (1.85 mmol) 2,2,2-trifluoroethyl triflate in 5 ml dimethylformamide were treated with 0.61 g (1.85 mmol) cesium carbonate for 18 hours. The mixture was extracted with water/ethylacetate. Chromatography on silicagel with heptane/ethylacetate 70:30 yielded 0.34 g (57%) (6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one, MS m/e (%): 487.4 (M+H+, 100).

reactant | (−)-(6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 1.24 mmol, 0.50 g | C(C1=CC=CC=C1)N([C@H]1[C@H](OC2=C(NC1=O)C=C(C=C2)F)CC)CC2=CC=CC=C2 | C25H25FN2O2
reactant | 2,2,2-trifluoroethyl triflate | 1.85 mmol, 0.44 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | cesium carbonate | 1.85 mmol, 0.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 0.34 g, 57% | C(C1=CC=CC=C1)N([C@H]1[C@H](OC2=C(N(C1=O)CC(F)(F)F)C=C(C=C2)F)CC)CC2=CC=CC=C2 | C27H26F4N2O2
